US06359134B1
5-(4-Pyridyl)-2-thiophenecarboxylic acid
To a solution of the obtained methyl 5-(4-pyridyl)-2-thiophenecarboxylate (410 mg) in ethanol (20 ml) was added 1 N sodium hydroxide solution (4 ml) and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated, and the residue was dissolved in water, to which was added 1 N hydrochloric acid (4 ml). The precipitate was filtered, washed with water and dried to give the title compound (363 mg).

reactant | methyl 5-(4-pyridyl)-2-thiophenecarboxylate | 410 mg | N1=CC=C(C=C1)C1=CC=C(S1)C(=O)OC | C11H9NO2S
reactant | sodium hydroxide | 1 N, 4 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(4-Pyridyl)-2-thiophenecarboxylic acid | 363 mg | N1=CC=C(C=C1)C1=CC=C(S1)C(=O)O | C10H7NO2S
